US07846928B2
1-{4-[3-Amino-6-isopropyl-1-(2-morpholin-4-yl-ethyl)-1H-pyrazolo[3,4-b]pyridin-4-yl]-phenyl}-3-(3-trifluoromethyl-phenyl)-urea
In analogy to GP 5, reaction of 1-[4-(3-Amino-6-isopropyl-1H-pyrazolo[3,4-b]pyridin-4-yl)-phenyl]-3-(3-trifluoromethyl-phenyl)-urea (136 mg, 0.3 mmol, 1 eq.) with 39.3 mg NaH, 167 mg 4-(2-Chloro-ethyl)-morpholine hydrochloride (0.9 mmol, 3 eq.), 0.12 mL triethylamine (0.9 mmol, 3 eq.) in 3+3 mL DMF yielded after HPLC purification 16.6 mg of the desired product (10% yield).

reactant | 1-[4-(3-Amino-6-isopropyl-1H-pyrazolo[3,4-b]pyridin-4-yl)-phenyl]-3-(3-trifluoromethyl-phenyl)-urea | 0.3 mmol, 136 mg, 1 eq. | NC1=NNC2=NC(=CC(=C21)C2=CC=C(C=C2)NC(=O)NC2=CC(=CC=C2)C(F)(F)F)C(C)C | C23H21F3N6O
reactant | NaH | 39.3 mg | [H-].[Na+]
reactant | 4-(2-Chloro-ethyl)-morpholine hydrochloride | 0.9 mmol, 167 mg, 3 eq. | Cl.ClCCN1CCOCC1
reactant | triethylamine | 0.9 mmol, 0.12 mL, 3 eq. | C(C)N(CC)CC | C6H15N
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 1-{4-[3-Amino-6-isopropyl-1-(2-morpholin-4-yl-ethyl)-1H-pyrazolo[3,4-b]pyridin-4-yl]-phenyl}-3-(3-trifluoromethyl-phenyl)-urea | 16.6 mg, 10% yield | NC1=NN(C2=NC(=CC(=C21)C2=CC=C(C=C2)NC(=O)NC2=CC(=CC=C2)C(F)(F)F)C(C)C)CCN2CCOCC2 | C29H32F3N7O2
